US09023840B2
4-{3-(Cyanomethyl)-3-[4-(7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]azetidin-1-yl}-3-fluoro-N-[(1R)-2,2,2-trifluoro-1-methylethyl]benzamide
This compound was prepared by using procedures analogous to those described for the synthesis of Example 5, Step 3 starting from 4-{3-(cyanomethyl)-3-[4-(7-{[2-(trimethylsilyl)ethoxy]methyl}-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]azetidin-1-yl}-3-fluorobenzoic acid and (2R)-1,1,1-trifluoropropan-2-amine hydrochloride. LCMS (M+H)+: m/z=513.2. 1H NMR (400 MHz, DMSO-d6): δ 12.66 (br, 1H), 9.11 (s, 1H), 8.86 (s, 1H), 8.64 (d, J=8.9 Hz, 1H), 8.58 (s, 1H), 7.80 (br, 1H), 7.71 (s, 1H), 7.69 (dd, J=4.0, 1.6 Hz, 1H), 7.26 (br, 1H), 6.78 (t, J=8.7 Hz, 1H), 4.89-4.78 (m, 1H), 4.71 (d, J=7.7 Hz, 2H), 4.45 (dd, J=9.4, 1.8 Hz, 2H), 3.78 (s, 2H), 1.35 (d, J=7.0 Hz, 3H).

reactant | 4-{3-(cyanomethyl)-3-[4-(7-{[2-(trimethylsilyl)ethoxy]methyl}-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]azetidin-1-yl}-3-fluorobenzoic acid | C(#N)CC1(CN(C1)C1=C(C=C(C(=O)O)C=C1)F)N1N=CC(=C1)C=1C2=C(N=CN1)N(C=C2)COCC[Si](C)(C)C | C27H30FN7O3Si
reactant | (2R)-1,1,1-trifluoropropan-2-amine hydrochloride | Cl.FC([C@@H](C)N)(F)F
product | 4-{3-(Cyanomethyl)-3-[4-(7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-pyrazol-1-yl]azetidin-1-yl}-3-fluoro-N-[(1R)-2,2,2-trifluoro-1-methylethyl]benzamide | C(#N)CC1(CN(C1)C1=C(C=C(C(=O)N[C@@H](C(F)(F)F)C)C=C1)F)N1N=CC(=C1)C=1C2=C(N=CN1)NC=C2 | C24H20F4N8O
